US20010041700A1
(a) (Benzyl-methyl-amino)-acetic acid Methyl Ester
Methyl bromoacetate (10 g, 65.4 mmol, 1.0 equiv) was dissolved in 100 mL of CH2Cl2 which was then cooled to 0° C. N-Methylbenzylamine (7.92 g, 65.4 mmol, 1.0 equiv) was added dropwise over a 10 min period at which time Hunig's base (21 g, 163 mmol, 2.4 equiv) was added and the reaction was allowed to warm to room temperature and was stirred for 16 h. The reaction was diluted with 50 mL of saturated bicarbarbonate and the layers were separated. The organic layer was washed once more with 50 mL of sodium bicarbonate, dried over Na2SO4, decanted and concentrated to a yellow oil which was used in the next step without further purification.

reactant | Methyl bromoacetate | 65.4 mmol, 10 g, 1.0 equiv | BrCC(=O)OC | C3H5BrO2
reactant | N-Methylbenzylamine | 65.4 mmol, 7.92 g, 1.0 equiv | CNCC1=CC=CC=C1 | C8H11N
reactant | Hunig's base | 163 mmol, 21 g, 2.4 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (Benzyl-methyl-amino)-acetic acid Methyl Ester | COC(CN(C)CC1=CC=CC=C1)=O | C11H15NO2
